US03997539
To a stirred mixture of 9.0 g of lithium aluminum hydride in 400 ml. of 1,2-dimethoxyethane is added 10.52 g (0.037 mol) of 1-(indol-3-ylglyoxyloyl)-4-nitrosopiperazine slowly to maintain reaction temperature below 35° C. After all the material is added, the mixture is refluxed for 14-16 hours. The reaction mixture is cooled to -5° C. and a solution of 50 ml. of water and 50 ml. of 1,2-dimethoxyethane is slowly added while maintaining the temperature below 15° C. Another 50 ml. of water is added, and the mixture is then filtered. The solvent is removed from the filtrate and the residual solid is recrystallized from benzene, producing the pure crystals of 3-[2-(4-aminopiperazin-1-yl)ethyl]indole, m.p. 115°-117° C. Analysis: Calculated for C14H20N4 :68.82% C; 8.25% H; 22.93% N Found:68.70% C; 8.17% H; 22.55% N.

reactant | lithium aluminum hydride | 9.0 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 1,2-dimethoxyethane | COCCOC | C4H10O2
reactant | 1-(indol-3-ylglyoxyloyl)-4-nitrosopiperazine | 0.037 mol, 10.52 g | N1C=C(C2=CC=CC=C12)C(C(=O)N1CCN(CC1)N=O)=O | C14H14N4O3
solvent | water | O | H2O
product | 3-[2-(4-aminopiperazin-1-yl)ethyl]indole | NN1CCN(CC1)CCC1=CNC2=CC=CC=C12 | C14H20N4
